US09056859B2
Step D: methyl(2-chloro-5-methoxy-4-{[(trifluoromethyl)sulfonyl]oxy}phenyl)acetate
To a solution of methyl (2-chloro-4-hydroxy-5-methoxyphenyl)acetate (570 mg, 2.468 mmol) in 10 mL of pyridine was added Tf2O (853 mg, 2.962 mmol) dropwise at 0° C. The resulting mixture was stirred at rt overnight and concentrated to dryness. The residue was dissolved in EtOAc (50 mL), washed with 1 N HCl (50 mL), brine (50 mL), dried over anhydrous Na2SO4 and concentrated to give methyl(2-chloro-5-methoxy-4-{[(trifluoromethyl)sulfonyl]oxy}phenyeacetate.

reactant | methyl (2-chloro-4-hydroxy-5-methoxyphenyl)acetate | 2.468 mmol, 570 mg | ClC1=C(C=C(C(=C1)O)OC)CC(=O)OC | C10H11ClO4
reactant | Tf2O | 2.962 mmol, 853 mg | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | methyl(2-chloro-5-methoxy-4-{[(trifluoromethyl)sulfonyl]oxy}phenyl)acetate | COC(CC1=C(C=C(C(=C1)OC)OS(=O)(=O)C(F)(F)F)Cl)=O | C11H10ClF3O6S
